Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Subdural hematoma; skull fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male who was found down intoxicated. 
Further workup revealed a skull fracture and subdural hematoma.

 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon Admission:
===============
GCS upon Neurosurgery Evaluation: 14

Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: multiple abrasions
Neck: supple
Extrem: warm and well perfused
Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech is fluent with good comprehension. ___
speaking only)

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Upon Discharge:
==============
He is primarily ___ speaking. He is awake, alert, and 
cooperative with the exam. He is oriented to self, hospital, and 
date. PERRL, EOMI. ___. No pronator drift. He moves all his 
extremities with ___ strength. Sensation is intact to light 
touch throughout.
 
Pertinent Results:
Please see OMR for relevant findings.
 
Brief Hospital Course:
___ is a ___ year old male who was found down 
while intoxicated. He presents with subdural hematoma and a 
non-displaced skull fracture. 

#Skull fracture/subdural hematoma
He was admitted to the ___ under the Neurosurgery Service for 
close monitoring. A helmet was ordered for him to wear with 
physical activity greater than a casual walk. He was started on 
Keppra for seizure prophylaxis. Repeat head CT was stable and 
CTA showed no involvement of the sagittal sinus. Initially, he 
had persistent nausea and he was unable to tolerate food. This 
improved over the course of his hospitalization. On ___, he 
was transferred to the floor. On ___, he remained 
neurologically intact. His pain was well controlled with oral 
medications. He was tolerating a diet and ambulating 
independently. His vital signs were stable and he was afebrile. 
He was discharged to home in a stable condition.
 
Medications on Admission:
Amlodipine
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 1000 mg PO BID 
Please take until prescription is gone 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth every 12 hours 
Disp #*12 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
for pain Disp #*20 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation   
6.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Subdural hematoma 
Vertex Skull fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

Activity
_x0095_You must wear a helmet whenever you are moving faster than 
casual walking speed or you are higher than standing on the 
ground. This includes while running, skateboarding, etc. as well 
as painting on scaffolding or anything higher than ground level. 
 
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
_x0095_Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_You may have difficulty paying attention, concentrating, and 
remembering new information.
_x0095_Emotional and/or behavioral difficulties are common. 
_x0095_Feeling more tired, restlessness, irritability, and mood 
swings are also common.
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

 Headaches:
_x0095_Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
_x0095_Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
_x0095_Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
_x0095_There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
_x0095_You were given information about headaches after TBI and the 
impact that TBI can have on your family.
_x0095_If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason

 
Followup Instructions:
___